US08012974B2
DIPEA (0.082 mL, 0.47 mmol) was added at RT to a mixture of 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride (0.066 g, 0.142 mmol), 3,3,3-trifluoropropionic acid (0.015 mL, 0.171 mmol), EDCI (0.033 g, 0.171 mmol), HOBt monohydrate (0.026 g, 0.171 mmol) in 1 mL of DCM. The resulting mixture was stirred at RT for 24 hours before being partitioned between H2O and DCM. The aqueous layer was back extracted twice with DCM. The combined organic layers were dried (Na2SO4), filtered, and evaporated. The residue was purified by SiO2 flash chromatography (DCM/(DCM:MeOH:NH4OH 60:10:1] 80% DCM) to give 0.04 g of 1-[1-(3,3,3-trifluoro-propionyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (56% yield).

reactant | DIPEA | 0.47 mmol, 0.082 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride | 0.142 mmol, 0.066 g | Cl.Cl.N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C
reactant | 3,3,3-trifluoropropionic acid | 0.171 mmol, 0.015 mL | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | EDCI | 0.171 mmol, 0.033 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt monohydrate | 0.171 mmol, 0.026 g | C1=CC=C2C(=C1)N=NN2O.O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-(3,3,3-trifluoro-propionyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.04 g, 56% yield | FC(CC(=O)N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)(F)F | C21H31F3N6O3Si
